US04992433
A mixture of 3.8 parts of 3-chloro-6-[4-[3-[4-(4,5-dihydro-2-oxazolyl)phenoxy]-propyl]-1-piperazinyl]pyridazine, 200 parts of methanol and 2 parts of calcium oxide was hydrogenated at normal pressure and at 50° C. with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was taken up in water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off, washed with 2-propanol and 2,2'-oxybispropane and dried over weekend at 60° C., yielding 0.7 parts (17.2%) of 3-[4-[3-[4-(4,5-dihydro-2 -oxazolyl)phenoxy]propyl]-1-piperazinyl]pyridazine; mp. 144.7° C. (comp. 169).

reactant | 3-chloro-6-[4-[3-[4-(4,5-dihydro-2-oxazolyl)phenoxy]-propyl]-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)CCCOC1=CC=C(C=C1)C=1OCCN1 | C20H24ClN5O2
reactant | calcium oxide | [O-2].[Ca+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-[4-[3-[4-(4,5-dihydro-2 -oxazolyl)phenoxy]propyl]-1-piperazinyl]pyridazine | 17.2% | O1C(=NCC1)C1=CC=C(OCCCN2CCN(CC2)C=2N=NC=CC2)C=C1 | C20H25N5O2
